US09169209B2
C. 3-(pyridin-3-yl)acryloyl chloride hydrochloride
To a suspension of 3-(pyridin-3-yl)acrylic acid (1.03 g, 6.9 mmol) in DCM (25 ml) is added oxalyl chloride (2 M in DCM, 17.25 mL, 34.5 mmol) dropwise. With stir, 100 uL of DMF is added and the mixture is stirred at RT for 30 min then heat at reflux for 3 h. The solvent is removed under vacuum and ether is added (40 mL). The suspension is stirred at RT for 30 min then filtered. The solid is washed with ether (20 mL) and dried under vacuum to give the tilted compound as a white solid. (1.22 g, 87%).

reactant | 3-(pyridin-3-yl)acrylic acid | 6.9 mmol, 1.03 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 34.5 mmol, 2 M, 17.25 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 100 uL | CN(C)C=O | C3H7NO
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-(pyridin-3-yl)acryloyl chloride hydrochloride | Cl.N1=CC(=CC=C1)C=CC(=O)Cl | InChI=1S/C8H6ClNO.ClH/c9-8(11)4-3-7-2-1-5-10-6-7;/h1-6H;1H
